US07763562B2
To a solution of 100 g (0.474 mol) of 4-bromo-1-indanone in 530 ml of THF-methanol (2:1, vol.), 26.8 g (0.709 mol) of NaBH4 was added in small portions at vigorous stirring for 1.5 hours at 5° C. This mixture was stirred at room temperature for 12 hours and then added to 1 L of cold water. The hydrogenation product was extracted with 4×200 ml of dichloromethane, and the combined extract was evaporated to dryness. To 108 g (1.93 mol) of KOH in 700 ml of DMSO, 135 g (59.2 ml, 0.948 mol) MeI, and a solution of crude 4-bromoindan-1-ol in 300 ml of DMSO were added. This mixture was stirred for 2 hours at ambient temperature; then, 67.2 g (29.5 ml, 0.473 mol) of MeI was added, and the mixture was additionally stirred for 2 hours. The resulting mixture was added to 2 L of cold water. The crude product was extracted with 5×200 ml of dichloromethane. The combined extract was dried over Na2SO4 and, then, evaporated to dryness. Fractional distillation gave 4-bromo-1-methoxyindane, b.p. 94° C./2 mm Hg. Yield, 100 g (93%) of a colorless oil.

reactant | 4-bromo-1-indanone | 0.474 mol, 100 g | BrC1=C2CCC(C2=CC=C1)=O | C9H7BrO
reactant | NaBH4 | 0.709 mol, 26.8 g | [BH4-].[Na+]
reactant | KOH | 1.93 mol, 108 g | [OH-].[K+]
reactant | MeI | 0.948 mol, 59.2 ml, 135 g | CI | CH3I
reactant | 4-bromoindan-1-ol | BrC1=C2CCC(C2=CC=C1)O | C9H9BrO
reactant | MeI | 0.473 mol, 29.5 ml, 67.2 g | CI | CH3I
solvent | THF methanol | 530 ml | C1CCOC1.CO
solvent | DMSO | 700 ml | CS(=O)C | C2H6OS
solvent | DMSO | 300 ml | CS(=O)C | C2H6OS
solvent | water | 2 L | O | H2O
solvent | water | 1 L | O | H2O
product | 4-bromo-1-methoxyindane | BrC1=C2CCC(C2=CC=C1)OC | C10H11BrO
